US09079866B2
Step A: N-(tert-Butyl)-3′-fluoro-4′-(5-(N-(methylsulfonyl)methylsulfonamido) pyrazin-2-yl)-[1,1′-biphenyl]-2-sulfonamide
To a 20 mL vial were added a stir-bar, 4′-(5-aminopyrazin-2-yl)-N-(tert-butyl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide (49 mg, 0.12 mmol), dry DCM (2.0 mL), DIPEA, (0.10 mL, 0.58 mmol), and methanesulfonyl chloride (0.020 mL, 0.25 mmol). The mixture was stirred at rt for 17.25 h before subjecting it to FCC to give impure title compound. The product was used in the next step without further purification.

reactant | 4′-(5-aminopyrazin-2-yl)-N-(tert-butyl)-3′-fluoro-[1,1′-biphenyl]-2-sulfonamide | 0.12 mmol, 49 mg | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C20H21FN4O2S
reactant | DIPEA | 0.58 mmol, 0.10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.25 mmol, 0.020 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-Butyl)-3′-fluoro-4′-(5-(N-(methylsulfonyl)methylsulfonamido) pyrazin-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C1=NC=C(N=C1)N(S(=O)(=O)C)S(=O)(=O)C)F | C22H25FN4O6S3
